US07825253B2
{5-[(E)-2-(4-Fluoro-phenyl)-vinyl]-quinolin-2-yl}-(5-methyl-furan-2-ylmethyl)-amine
The title compound, MS: m/e=359.0 (M+H+), was prepared in accordance with the general method of example 2 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and 4-fluorostyrene.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-fluorostyrene | FC1=CC=C(C=C)C=C1 | C8H7F
product | {5-[(E)-2-(4-Fluoro-phenyl)-vinyl]-quinolin-2-yl}-(5-methyl-furan-2-ylmethyl)-amine | FC1=CC=C(C=C1)/C=C/C1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C23H19FN2O
